US05041453
To a stirred solution of 5-[3-(2-quinolinylmethyloxy)benzyloxy]-3-methylbenzo(b)thiophene-2-carboxamide (454.5 mg, 1 mmol) in pyridine (10 ml) at room temperature is added methanesulfonyl chloride (387 μL, 5 mmol). The solution is stirred for 16 hours and water (50 ml) and ethyl acetate (100 ml) are added. Extraction with ethyl acetate, washing with water and brine, drying (MgSO4) and concentration affords a crude product which is chromatographed over silica gel. Elution with 25% ethyl acetate in hexane provides 2-cyano-5-[3-(2-quinolinylmethyloxy)benzyloxy]-3-methylbenzo(b)thiophene.

reactant | 5-[3-(2-quinolinylmethyloxy)benzyloxy]-3-methylbenzo(b)thiophene-2-carboxamide | 1 mmol, 454.5 mg | N1=C(C=CC2=CC=CC=C12)COC=1C=C(COC2=CC3=C(SC(=C3C)C(=O)N)C=C2)C=CC1 | C27H22N2O3S
reactant | methanesulfonyl chloride | 5 mmol, 387 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 50 ml | O | H2O
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-cyano-5-[3-(2-quinolinylmethyloxy)benzyloxy]-3-methylbenzo(b)thiophene | C(#N)C1=C(C2=C(S1)C=CC(=C2)OCC2=CC(=CC=C2)OCC2=NC1=CC=CC=C1C=C2)C | C27H20N2O2S
